US05366987
(c) (±)-5-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1,2,4 -oxadiazole-3-acetamide
Tridecanoyl chloride (15.08 g, 0.061 mol) was added to a mixture of α-[(hydroxyamino)iminomethyl]-N-(2,4,6-trimethoxyphenyl)-benzene acetamide (19.8 g, 0.055 mol), Hunig's base (10.6 mL, 0.061 mol), and THF (200 mL). The mixture was stirred in THF at room temperature for 2 hours, then concentrated in vacuo and dissolved in glacial acetic acid (50 mL) and refluxed for 2 hours, then concentrated in vacuo, azeotroped with toluene (2×250 mL), and columned on silica gel eluting with 35% ethyl acetate in hexanes to yield a white solid (12.1 g, 62%) .

reactant | Tridecanoyl chloride | 0.061 mol, 15.08 g | C(CCCCCCCCCCCC)(=O)Cl | C13H25ClO
reactant | α-[(hydroxyamino)iminomethyl]-N-(2,4,6-trimethoxyphenyl)-benzene acetamide | 0.055 mol, 19.8 g | ONN=CC(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C18H21N3O5
reactant | Hunig's base | 0.061 mol, 10.6 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (±)-5-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-1,2,4 -oxadiazole-3-acetamide | 12.1 g, 62% | C(CCCCCCCCCCC)C1=NC(=NO1)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C31H43N3O5
